US07709649B2
To a flask containing methyl-5-hydroxynicotinate (4.5 g, 29 mmol) was added sodium hypochlorite aqueous solution (6.15%, 26.7 mL, 22 mmol) dropwise under ice bath cooling. After 30 min of stirring, 2 M HCl (20 mL) was added and the resulting white crystals collected by filtration to give 2.31 g of 6-chloro-5-hydroxynicotinic acid methyl ester in 42% yield. 1H NMR (400 MHz, CDCl3) δ 10.32 (bs, 1H), 8.48 (d, 1H), 7.84 (d, 1H), 7.40 (s, 1H), 3.93 (s. 3H); LC-MS (ELSD): mass calcd for C7H6ClNO3 [M]+ 187. Found 187.

reactant | methyl-5-hydroxynicotinate | 29 mmol, 4.5 g | COC(C1=CN=CC(=C1)O)=O | C7H7NO3
reactant | sodium hypochlorite | 22 mmol, 26.7 mL | Cl[O-].[Na+]
solvent | HCl | 2 M, 20 mL | Cl | ClH
product | 6-chloro-5-hydroxynicotinic acid methyl ester | 2.31 g, 42% yield | COC(C1=CN=C(C(=C1)O)Cl)=O | C7H6ClNO3
